US07696213B2
2-Amino-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (Compound 153)
To a solution of (E)-ethyl 3-(2-amino-4-(trans-4-hydroxycyclohexylamino)-6-methylpyrimidin-5-yl)acrylate (233 mg, 0.727 mmol) in dimethylacetamide was added 1,5-diazbicyclo[5,4,0]undec-5-ene (544 uL, 3.64 mmol) followed by potassium tert-butoxide (1 M in THF, 364 uL, 364 mmol). The resulting solution was heated at 150° C. overnight then concentrated. The residue was purified by flash chromatography eluting with chloroform/7 N ammonia in methanol (0.5-5%). The product was then triturated with 1:1 chloroform:hexane to afford the title compound (119 mg, 60%).

reactant | (E)-ethyl 3-(2-amino-4-(trans-4-hydroxycyclohexylamino)-6-methylpyrimidin-5-yl)acrylate | 0.727 mmol, 233 mg | NC1=NC(=C(C(=N1)N[C@@H]1CC[C@H](CC1)O)/C=C/C(=O)OCC)C | C16H24N4O3
reactant | potassium tert-butoxide | 364 mmol, 1 M, 364 uL | CC(C)([O-])C.[K+]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 2-Amino-8-(trans-4-hydroxycyclohexyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 119 mg, 60% | NC=1N=C(C2=C(N1)N(C(C=C2)=O)[C@@H]2CC[C@H](CC2)O)C | C14H18N4O2
